US08497281B2
cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexa hydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid
The title compound is prepared from a ca. 1:1 mixture of cis-1-(1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-6-carboxylic acid methyl ester and cis-1-(1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid methyl ester following a procedure analogous to that described in Example 35 and separated from Example 98 by HPLC on reversed phase (MeCN/H2O). Yield: 5% of theory; Mass spectrum (ESI+): m/z=362 [M+H]+.

reactant | cis-1-(1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-6-carboxylic acid methyl ester | COC(=O)C=1C=CC=2C[C@@H]3N(CCC[C@@H]3C2C1)C(=O)C1=CC2=C(NC=N2)C=C1 | C22H21N3O3
reactant | cis-1-(1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid methyl ester | COC(=O)C1=CC=2C[C@@H]3N(CCC[C@@H]3C2C=C1)C(=O)C1=CC2=C(NC=N2)C=C1 | C22H21N3O3
product | cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexa hydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid | Yield: 5% | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=CC(=CC2C1)C(=O)O | C21H19N3O3
